US07534905B2
To a cooled (0° C.) solution of allyltrichlorosilane (4.9 mL; 34 mmol) in CH2Cl2 (50 mL) was added 1,8-Diazabicyclo[5.4.0]undec-7-ene (13 mL; 84 mmol). A solution of pinacol (4.0 g; 34 mmol) in CH2Cl2 (50 mL) was then added slowly and the resultant solution was warmed to room temperature and stirred for 12 hours. The solution was concentrated and the residue was treated with diethylether (100 mL). The mixture was stirred for 1 hour during which time the formation of a precipitate was observed. The mixture was then filtered and the filtrate was concentrated. The residue was distilled under reduced pressure to give 5.2 g (72%) of 2-allyl-2-chloro-4,4,5,5-tetramethyl-[1,3,2]dioxasilolane as a clear, colorless liquid.

reactant | allyltrichlorosilane | 34 mmol, 4.9 mL | C(C=C)[Si](Cl)(Cl)Cl | C3H5Cl3Si
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 84 mmol, 13 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | pinacol | 34 mmol, 4.0 g | OC(C)(C)C(C)(C)O | C6H14O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-allyl-2-chloro-4,4,5,5-tetramethyl-[1,3,2]dioxasilolane | 5.2 g, 72% | C(C=C)[Si]1(OC(C(O1)(C)C)(C)C)Cl | C9H17ClO2Si
